US07608721B2
A solution of 4.2 g (11.8 mmol) of 2,2,2-trifluoro-N-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenyl]-acetamide in 30 mL of THF was treated with 24.2 mL of a 1M BH3.THF-complex solution in THF. The mixture was stirred for 72 hours at RT and then refluxed for 2 hours. After cooling to RT, the mixture was distributed between a saturated aqueous solution of NH4Cl and Et2O. The combined organic phases were dried over Na2SO4 and evaporated. Column chromatography on silicagel with n-heptane/EtOAc 4:1 yielded 3.0 g (74%) of 1,1,1,3,3,3-hexafluoro-2-[4-(2,2,2-trifluoro-ethylamino)-phenyl]-propan-2-ol, light brown oil, MS: 342 (MH+).

reactant | 2,2,2-trifluoro-N-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-phenyl]-acetamide | 11.8 mmol, 4.2 g | FC(C(=O)NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)(F)F | C11H6F9NO2
reactant | BH3.THF | 1M | B.C1CCOC1
reactant | NH4Cl | [NH4+].[Cl-]
reactant | Et2O | CCOCC | C4H10O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1,1,1,3,3,3-hexafluoro-2-[4-(2,2,2-trifluoro-ethylamino)-phenyl]-propan-2-ol | 3.0 g, 74% | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)NCC(F)(F)F)(F)F | C11H8F9NO
